US08877780B2
5.15 [2-(2,6-DIOXO-PIPERIDIN-3-YL)-1,3-DIOXO-2,3-DIHYDRO-1H-ISOINDOL-5-YLMETHYL]-CARBAMIC ACID HEXYL ESTER
A mixture of 5-aminomethyl-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione hydrochloride (1.0 g, 3.1 mmol), hexyl chloroformate (0.51 g, 3.1 mmol), and triethylamine (0.63 g, 6.2 mmol) in THF (35 mL) was stirred at 40° C. under nitrogen for 3 hours. The mixture was cooled and diluted with ethyl acetate (100 mL), washed with water (3×100 mL), and evaporated. The residue was chromatographed in methylene chloride-methanol gradient, eluting the product at 19:1 methylene chloride-methanol. This material was further purified by preparative HPLC, using a 50-50 acetonitrile-water isocrat, and providing 0.40 g as a white solid, in 31% yield; mp 111-113° C.; HPLC, Waters Symmetry C-18, 3.9×150 mm, 5 μm, 1 mL/min, 240 nm, 50/50 CH3CN/0.1% H3PO4, 5.08 (99.11%); 1H NMR (DMSO-d6) δ 1.11-1.57 (m, 1H), 2.02-2.07 (m, 1H), 2.46-2.63 (m, 2H), 2.84-2.96 (m, 1H), 3.97 (t, J=8.3 Hz, 2H), 4.35 (d, J=6.0 Hz, 2H), 5.15 (dd, J=12.9 Hz, J=5.4 Hz, 1H), 7.72-7.77 (m, 2H), 7.84-7.90 (m, 2H), 11.13 (s, 1H); 13C NMR (DMSO-d6) δ 13.8, 22.0, 25.0, 28.6, 30.8, 30.9, 43.5, 49.0, 64.0, 121.6, 123.5, 129.8, 131.6, 133.2, 147.9, 156.6, 167.0, 167.1, 169.8, 172.7; Anal. Calcd for C21H15N3O6: C, 60.71; H, 6.07; N, 10.11. Found: C, 60.49; H, 6.13; N, 9.91.

reactant | 5-aminomethyl-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione hydrochloride | 3.1 mmol, 1.0 g | Cl.NCC=1C=C2C(N(C(C2=CC1)=O)C1C(NC(CC1)=O)=O)=O
reactant | hexyl chloroformate | 3.1 mmol, 0.51 g | ClC(=O)OCCCCCC | C7H13ClO2
reactant | triethylamine | 6.2 mmol, 0.63 g | C(C)N(CC)CC | C6H15N
reactant | CH3CN | CC#N | C2H3N
solvent | THF | 35 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | [2-(2,6-DIOXO-PIPERIDIN-3-YL)-1,3-DIOXO-2,3-DIHYDRO-1H-ISOINDOL-5-YLMETHYL]-CARBAMIC ACID HEXYL ESTER | 31% yield | C(CCCCC)OC(NCC=1C=C2C(N(C(C2=CC1)=O)C1C(NC(CC1)=O)=O)=O)=O | C21H25N3O6
